US07524847B2
3-(2-Butynyl)-1-methyl-4-piperazin-1-yl-1,3-dihydroimidazo[4.5-c]pyridin-2-one
3-(2-butynyl)-4-chloro-1-methyl-1,3-dihydroimidazo[4.5-c]pyridin-2-one (0.041 g) and piperazine-1-carboxylic acid t-butyl ester (0.200 g) were heated at 175° C. for four hours under nitrogen atmosphere. Additional piperazine-1-carboxylic acid t-butyl ester (0.200 g) was then added, and this was heated at 175° C. for 16 hours. The residue was purified by reverse phase high performance liquid chromatography to give the title compound (0.032 g).

reactant | 3-(2-butynyl)-4-chloro-1-methyl-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 0.041 g | C(C#CC)N1C(N(C2=C1C(=NC=C2)Cl)C)=O | C11H10ClN3O
reactant | piperazine-1-carboxylic acid t-butyl ester | 0.200 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | piperazine-1-carboxylic acid t-butyl ester | 0.200 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 3-(2-Butynyl)-1-methyl-4-piperazin-1-yl-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 0.032 g | C(C#CC)N1C(N(C2=C1C(=NC=C2)N2CCNCC2)C)=O | C15H19N5O
